US08283383B2
5-Isobutyrylamino-4′-methyl-biphenyl-3-carboxylic acid methyl ester (0.786 g, 2.32 mmol) and NaH (6.2 g, 2.55 mmol) were added to DMF (20 mL), and the mixture was stirred for 30 minutes at room temperature, then cooled to 0° C. Ethyl iodide (1.181 g, 11.6 mmol) was added, and the reaction mixture was stirred for five days at room temperature. The reaction was quenched by addition of saturated aqueous NH4Cl and water, and the mixture was extracted with diethyl ether. The combined organic layers were separated, washed with water and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (30% ethyl acetate in hexanes) to give 0.461 g of 5-(ethyl-isobutyryl-amino)-4′-methyl-biphenyl-3-carboxylic acid methyl ester.

reactant | 5-Isobutyrylamino-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 2.32 mmol, 0.786 g | COC(=O)C=1C=C(C=C(C1)NC(C(C)C)=O)C1=CC=C(C=C1)C | C19H21NO3
reactant | NaH | 2.55 mmol, 6.2 g | [H-].[Na+]
reactant | Ethyl iodide | 11.6 mmol, 1.181 g | C(C)I | C2H5I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-(ethyl-isobutyryl-amino)-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 0.461 g | COC(=O)C=1C=C(C=C(C1)N(C(C(C)C)=O)CC)C1=CC=C(C=C1)C | C21H25NO3
